US08445501B2
4-(2-Cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(R)-1-((S)-2-hydroxy-propionyl)pyrrolidin-3-yl]-amide
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-pyrrolidin-3-ylamide hydrochloride (example A169) and acetic acid (S)-1-chlorocarbonyl-ethyl ester the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-pyrrolidin-3-ylamide hydrochloride | Cl.N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC)OCC2CC2
reactant | acetic acid (S)-1-chlorocarbonyl-ethyl ester | ClC(=O)[C@H](C)OC(C)=O | C5H7ClO3
product | 4-(2-Cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(R)-1-((S)-2-hydroxy-propionyl)pyrrolidin-3-yl]-amide | O[C@H](C(=O)N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC)OCC2CC2)C | C25H28FN5O5
